US07105663B2
2-(2,6-Diisopropylphenylimino)-9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido-[6,1-a]isoquinolin-4-one (1)
2,6-Diisopropylaniline (9.62 ml, 51 mmol) and 2-chloro-9,10-dimethoxy-6,7-dihydro-4H-pyrimido[6,1-a]isoquinolin-4-one (5 g, 17 mmol) were suspended in propan-2-ol (400 ml ) and heated at reflux, under nitrogen, for 4 days. After cooling to room temperature, the solution was concentrated in vacuo and the residue purified by flash column chromatography [dichloromethane/methanol (98:2–96:4)] to afford the title compound (5.8 g, 79%) as a yellow/orange solid.

reactant | 2,6-Diisopropylaniline | 51 mmol, 9.62 ml | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | 2-chloro-9,10-dimethoxy-6,7-dihydro-4H-pyrimido[6,1-a]isoquinolin-4-one | 17 mmol, 5 g | ClC1=NC(N2C(C3=CC(=C(C=C3CC2)OC)OC)=C1)=O | C14H13ClN2O3
solvent | propan-2-ol | 400 ml | CC(C)O | C3H8O
product | 2-(2,6-Diisopropylphenylimino)-9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido-[6,1-a]isoquinolin-4-one | 5.8 g, 79% | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C1NC(N2C(C3=CC(=C(C=C3CC2)OC)OC)=C1)=O | C26H31N3O3
